US06281214B1
Synthesis of 2-chloro-3-bromo-5-nitrobenzoic acid
26.63 g (86.3 mmol ) of ethyl 2-chloro-3-bromo-5-nitrobenzoate was dissolved in a mixture comprising 150 ml of ethanol and 80 ml. of THF, followed by the addition of 55 ml of a 2N aqueous solution of sodium hydroxide. The obtained mixture was stirred at room temperature for one hour, followed by the addition of water and 19 ml. of 6N hydrochloric acid. The obtained mixture was concentrated under reduced pressure and extracted with ethyl acetate. The ethyl acetate phase was washed with a saturated aqueous solution of common salt, dried and distilled to remove the solvent, giving 24.11 g of the title compound (yield: quantitative).

reactant | ethyl 2-chloro-3-bromo-5-nitrobenzoate | 86.3 mmol, 26.63 g | ClC1=C(C(=O)OCC)C=C(C=C1Br)[N+](=O)[O-] | C9H7BrClNO4
reactant | THF | C1CCOC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-chloro-3-bromo-5-nitrobenzoic acid | 24.11 g, yield: quantitative | ClC1=C(C(=O)O)C=C(C=C1Br)[N+](=O)[O-] | C7H3BrClNO4
